US08871756B2
trans-4-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}cyclohexanol
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (140 mg, 0.38 mmol, prepared in analogy to the one in Example 2-1), trans-4-aminocyclohexanol (45 mg, 0.39 mmol), tris(dibenzylideneacetone)dipalladium(0) (35 mg, 0.038 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (15 mg, 0.038 mmol), sodium tert-butoxide (38 mg, 0.39 mmol) and 1,4-dioxane (2 mL) was heated with stirring in a 5 mL of microwave process vial for 2 hours at 120° C. under microwave irradiation. The mixture was filtered and washed with ethyl acetate. The filtrate was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford the product as a solid. MS obsd. (ESI+) [(M+H)+] 452, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.98-7.83 (m, 2 H), 7.76 (s, 1 H), 7.64-7.44 (m, 2 H), 7.29 (d, J=8.34 Hz, 1 H), 7.21 (d, J=8.84 Hz, 1 H), 6.22 (d, J=8.34 Hz, 1 H), 6.06 (s, 1 H), 5.09 (brs, 2 H), 4.68 (d, J=4.29 Hz, 1 H), 3.62 (brs, 3 H), 3.49 (d, J=4.55 Hz, 1 H), 2.34 (s, 3 H), 2.03-1.83 (m, 4 H), 1.63-1.45 (m, 2 H), 1.35 (brs, 2 H), 1.24 (brs, 1 H), 1.18 (brs, 1 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | trans-4-aminocyclohexanol | 0.39 mmol, 45 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.038 mmol, 15 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 0.39 mmol, 38 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.038 mmol, 35 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | trans-4-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}cyclohexanol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@@H]2CC[C@H](CC2)O)C)=O | C25H29N3O3S
